US07511066B2
D. 3-[4-(tert-Butyl)-2-(piperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-4-carboxamide
The 3-[2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(tert-butyl)benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-4-carboxamide (60 mg, 0.1 mmol) was mixed with anisole (1 mL) and CH2Cl2 (2 mL) then treated with trifluoroacetic acid (1 mL). The reaction was stirred at ambient temperature for 4 h, concentrated under vacuum to dryness and mixed with CH2Cl2. This was filtered through a 1 g SCX ion exchange column using 2 M NH3 in MeOH. Concentration to dryness gave 32 mg of the title compound as a solid.

reactant | 3-[2-(1-tert-butoxycarbonylpiperidin-4-yloxy)-4-(tert-butyl)benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-4-carboxamide | 0.1 mmol, 60 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)OC1=C(C(=O)NC=2C=NC=CC2C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)C(C)(C)C | C32H38ClN5O5
reactant | anisole | 1 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-[4-(tert-Butyl)-2-(piperidin-4-yloxy)benzoylamino]-N-(5-chloropyridin-2-yl)pyridine-4-carboxamide | 32 mg | C(C)(C)(C)C1=CC(=C(C(=O)NC=2C=NC=CC2C(=O)NC2=NC=C(C=C2)Cl)C=C1)OC1CCNCC1 | C27H30ClN5O3
